US04923886
N-(2-Nitrooxyethyl)-2-methyl-4-thiazolecarboxamide was transformed into its hydrochloride in a conventional manner, followed by recrystallization from ethanol to obtain white crystals of N-(2-nitrooxyethyl)-2-methyl-4-thiazolecarboxamide hydrochloride.

reactant | N-(2-Nitrooxyethyl)-2-methyl-4-thiazolecarboxamide | [N+](=O)([O-])OCCNC(=O)C=1N=C(SC1)C | C7H9N3O4S
reactant | hydrochloride | Cl | ClH
product | N-(2-nitrooxyethyl)-2-methyl-4-thiazolecarboxamide hydrochloride | Cl.[N+](=O)([O-])OCCNC(=O)C=1N=C(SC1)C | InChI=1S/C7H9N3O4S.ClH/c1-5-9-6(4-15-5)7(11)8-2-3-14-10(12)13;/h4H,2-3H2,1H3,(H,8,11);1H
